US09145415B2
To 10% palladium-carbon (30 mg), a solution of tert-butyl 4-((3-nitrophenyl)amino)azepane-1-carboxylate (C25, 78 mg) in tetrahydrofuran (2 mL) and methanol (2 mL) was added at room temperature, and the mixture was stirred at the same temperature for 1 hour under a hydrogen atmosphere. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure to obtain tert-butyl 4-((3-aminophenyl)amino)azepane-1-carboxylate (C26, 64 mg).

reactant | tert-butyl 4-((3-nitrophenyl)amino)azepane-1-carboxylate | 78 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1CCN(CCC1)C(=O)OC(C)(C)C | C17H25N3O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | tert-butyl 4-((3-aminophenyl)amino)azepane-1-carboxylate | 64 mg | NC=1C=C(C=CC1)NC1CCN(CCC1)C(=O)OC(C)(C)C | C17H27N3O2
